US08314087B2
6-(3-Chloro-4-(4,5-dihydro-1H-imidazol-2-yl)phenyl)-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one
A suspension of N-(2-aminoethyl)-2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzamide (50 mg, 101 μmol), chlorotrimethylsilane (39 μl, 304 μmol), sodium iodide (46 mg, 304 μmol), and TEA (42 μL, 304 μmol) in DCM (2 mL) was stirred for 3 hours at 40° C. in an appropriately sealed vial. The reaction was then partitioned between DCM (5 mL) and 1 M NaOH (2 mL). The organic layer was then separated and dried over MgSO4, concentrated onto dry silica (2 g) then purified on silica (4 g) by washing with 5% MeOH, then eluting product with 4->10% NH3 in MeOH (2M)/DCM. The product was isolated as a white solid. (ESI pos. ion) m/z: 476 (MH+); calc'd for C25H22ClN5O3: 475. 1H NMR (400 MHz, DMSO-d6) □ ppm 3.65 (s, 4 H) 3.87 (s, 3 H) 4.69 (dd, J=7.34, 3.42 Hz, 4 H) 6.95 (d, J=5.28 Hz, 1 H) 7.03 (dd, J=9.10, 2.45 Hz, 1 H) 7.12 (d, J=9.78 Hz, 1 H) 7.28 (d, J=2.35 Hz, 1 H) 7.67 (d, J=8.22 Hz, 1 H) 7.83-7.92 (m, 2 H) 7.97 (d, J=1.56 Hz, 1 H) 8.13 (d, J=9.78 Hz, 1H) 8.62 (d, J=5.28 Hz, 1 H).

reactant | N-(2-aminoethyl)-2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzamide | 101 μmol, 50 mg | NCCNC(C1=C(C=C(C=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC)Cl)=O | C25H24ClN5O4
reactant | chlorotrimethylsilane | 304 μmol, 39 μl | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | 304 μmol, 46 mg | [I-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-Chloro-4-(4,5-dihydro-1H-imidazol-2-yl)phenyl)-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one | ClC=1C=C(C=CC1C=1NCCN1)C=1C=CC(N(N1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C25H22ClN5O3
